US07799933B2
1-(2-Methoxy-5-methyl-benzenesulfonyl)-1,2,3,4-tetrahydro-quinoline-7-carboxylic acid was converted to the title compound in analogy to example 8, steps 3 and 4. Step 3 was performed using 2-amino-4,5,6,7-tetrahydro-benzothiazole-4-carboxylic acid ethyl ester and 1-(2-methoxy-5-methyl-benzenesulfonyl)-1,2,3,4-tetrahydro-quinoline-7-carboxylic acid and yielded 2-{[1-(2-methoxy-5-methyl-benzenesulfonyl)-1,2,3,4-tetrahydro-quinoline-7-carbonyl]-amino}-4,5,6,7-tetrahydro-benzothiazole-4-carboxylic acid ethyl ester, which was hydrolyzed to 2-{[1-(2-methoxy-5-methyl-benzenesulfonyl)-1,2,3,4-tetrahydro-quinoline-7-carbonyl]-amino}-4,5,6,7-tetrahydro-benzothiazole-4-carboxylic acid in step 4, MS (ISP): m/e=540.3 (M−H).

reactant | 2-amino-4,5,6,7-tetrahydro-benzothiazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C1CCCC2=C1N=C(S2)N | C10H14N2O2S
reactant | 1-(2-methoxy-5-methyl-benzenesulfonyl)-1,2,3,4-tetrahydro-quinoline-7-carboxylic acid | COC1=C(C=C(C=C1)C)S(=O)(=O)N1CCCC2=CC=C(C=C12)C(=O)O | C18H19NO5S
product | 2-{[1-(2-methoxy-5-methyl-benzenesulfonyl)-1,2,3,4-tetrahydro-quinoline-7-carbonyl]-amino}-4,5,6,7-tetrahydro-benzothiazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C1CCCC2=C1N=C(S2)NC(=O)C2=CC=C1CCCN(C1=C2)S(=O)(=O)C2=C(C=CC(=C2)C)OC | C28H31N3O6S2
